US05721234
1-Acetamido-7-benzylmethylamino-5,6,7,8-tetrahydronaphthalene
A mixture of 1-acetamido-7-benzylamino-5,6,7,8-tetrahydronaphthalene (14.3 g, 50 mmol), paraformaldehyde (15 g, 0.5 mol) and sodium cyanoborohydride (15.7 g, 0.25 mol) in acetic acid (250 mL) was stirred at room temperature for 48 h. The solvent was removed and the residue taken up in water:diethyl ether. The aqueous phase was basified with 12.5% NaOH and back extracted with ether. The combined ether layers were washed with saturated NaCl, dried over magnesium sulfate, filtered and evaporated to give a viscous syrup (16 g).

reactant | 1-acetamido-7-benzylamino-5,6,7,8-tetrahydronaphthalene | 50 mmol, 14.3 g | C(C)(=O)NC1=CC=CC=2CCC(CC12)NCC1=CC=CC=C1 | C19H22N2O
reactant | paraformaldehyde | 0.5 mol, 15 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.25 mol, 15.7 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 1-Acetamido-7-benzylmethylamino-5,6,7,8-tetrahydronaphthalene | 16 g | C(C)(=O)NC1=CC=CC=2CCC(CC12)NCCC1=CC=CC=C1 | C20H24N2O
